US06720320B2
4-methoxy-2-(1-methylimidazol-2-yl)benzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 87 using 4-methoxy-2-(trimethylstannyl)benzo(b)furan (5.26 g), 2-bromo-1-methylimidazole (2.72 g) and bistriphenylphosphinepalladium dichloride (593 mg), the title compound (2.06 g) was obtained as a yellow oil.

reactant | 4-methoxy-2-(trimethylstannyl)benzo(b)furan | 5.26 g | COC1=CC=CC=2OC(=CC21)[Sn](C)(C)C
reactant | 2-bromo-1-methylimidazole | 2.72 g | BrC=1N(C=CN1)C | C4H5BrN2
product | 4-methoxy-2-(1-methylimidazol-2-yl)benzo(b)furan | 2.06 g | COC1=CC=CC=2OC(=CC21)C=2N(C=CN2)C | C13H12N2O2
